US07589212B2
Preparation of [3-diazo-1-(4-nitrobenzyl)-2-oxo-propyl]-carbamic acid tert-butyl ester (1):
To a 0° C. solution of 2-(S)-tert-butoxycarbonylamino-3-(4-nitrophenyl)-propionic acid (1.20 g, 4.0 mmol) in THF (20 mL) is added dropwise triethylamine (0.61 mL, 4.4 mmol) followed by iso-butyl chloroformate (0.57 mL, 4.4 mmol). The reaction mixture is stirred at 0° C. for 20 min and filtered. The filtrate is treated with an ether solution of diazomethane (˜16 mmol) at 0° C. The reaction mixture is stirred at room temperature for 3 hours and concentrated. The residue is dissolved in EtOAc and washed successively with water and brine, dried (Na2SO4), filtered and concentrated in vacuo. The resulting residue is purified over silica (hexane/EtOAc 2:1) to afford 1.1 g (82% yield) of the desired product as a slightly yellow solid. 1H NMR (300 MHz, CDCl3) δ 8.16 (d, J=8.7 Hz, 2H), 7.39 (d, J=8.7 Hz, 2H), 5.39 (s, 1H), 5.16 (d, J=6.3 Hz, 1H), 4.49 (s, 1H), 3.25 (dd, J=13.8 and 6.6, 1H), 3.06 (dd, J=13.5 and 6.9 Hz, 1H), 1.41 (s, 9H).

reactant | 2-(S)-tert-butoxycarbonylamino-3-(4-nitrophenyl)-propionic acid | 4.0 mmol, 1.20 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)[N+](=O)[O-] | C14H18N2O6
reactant | triethylamine | 4.4 mmol, 0.61 mL | C(C)N(CC)CC | C6H15N
reactant | iso-butyl chloroformate | 4.4 mmol, 0.57 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | diazomethane | ˜16 mmol | [N+](=[N-])=C | CH2N2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | [3-diazo-1-(4-nitrobenzyl)-2-oxo-propyl]-carbamic acid tert-butyl ester | 1.1 g, 82% yield | C(C)(C)(C)OC(NC(C(C=[N+]=[N-])=O)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C15H18N4O5
